US07834039B2
3-Chloro-N-hydroxy-4-isopropoxybenzimidamide (10 g, 43.7 mmol) was dissolved in DMF (219 ml) under nitrogen. The mixture was heated at about 110° C. for about 10 min. A solution of 4-cyanobenzoyl chloride (7.24 g, 43.7 mmol) dissolved in DMF (30 mL) was added dropwise over about 20 min and the reaction heated at about 110° C. for about 4 h. until LCMS shows reaction complete. The reaction was cooled in an ice bath and poured into rapidly stirred water (1000 mL). The resulting white precipitate was collected by vacuum filtration and washed with water. The precipitate was dissolved in methylene chloride and washed with 1 N HCl and then brine. The methylene chloride was dried over sodium sulfate, filtered, and evaporated. Heptane and DCM were added to the residue and the mixture heated until the DCM had boiled off after which the mixture was allowed to cool. Solids did not dissolve in hot heptane. The resulting solid was collected by vacuum filtration and washed with heptane to provide 4-(3-(3-chloro-4-isopropoxyphenyl)-1,2,4-oxadiazol-5-yl)benzonitrile (12.568 g, 37.0 mmol, 85% yield) as a tan solid: LCMS (Table 1, Method a) Rt=4.58 min.; MS m/z: 340.20 (M+H)+.

reactant | 3-Chloro-N-hydroxy-4-isopropoxybenzimidamide | 43.7 mmol, 10 g | ClC=1C=C(C(NO)=N)C=CC1OC(C)C | C10H13ClN2O2
reactant | 4-cyanobenzoyl chloride | 43.7 mmol, 7.24 g | C(#N)C1=CC=C(C(=O)Cl)C=C1 | C8H4ClNO
reactant | water | 1000 mL | O | H2O
solvent | DMF | 219 ml | CN(C)C=O | C3H7NO
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 4-(3-(3-chloro-4-isopropoxyphenyl)-1,2,4-oxadiazol-5-yl)benzonitrile | 37.0 mmol, 12.568 g, 85% yield | ClC=1C=C(C=CC1OC(C)C)C1=NOC(=N1)C1=CC=C(C#N)C=C1 | C18H14ClN3O2
